US06034127
a) 2-Chlorobenzenesulfonic acid 3-[5-cyanopentyloxy]-5-methylphenyl ester
Sodium hydride (24 mg, 1 mmol; 100%) was added to solution of 250 mg (0.855 mmol) of 2-chlorobenzenesulfonic acid 3-hydroxy-5-methylphenyl ester, as prepared in step (c) of Example 1, in 2 mL of N,N-dimethylformamide. After 5 min, 130 μL (0.93 mmol) of 6-bromohexanenitrile was added to the reaction mixture. The reaction mixture was stirred for 2 h at ambient temperature, quenched with brine (50 mL), extracted into diethyl ether (50 mL), washed with water (3×10 mL), dried (MgSO4), and concentrated in vacuo. The residue was purified by flash chromatography (methylene chloride/petroleum ether 4:1 to 100:0) to give 250 mg of the title compound as a colorless oil which solidified upon standing. 1H-NMR (300 MHz, CDCl3) δ 7.97 (dd, 1H, J=1.4, 7.8 Hz), 7.56-7.65 (m, 2H, 7.36-7.41 (m, 1H), 6.59 (br s, 1H, 6.53 (br, s 1H), 6.48 (t, 1H, J=1.1 Hz), 3.85 (t, 2H), 2.38 (t, 2H), 2.24 (s, 3H), and 1.6-1.8 (m, 6 H). Mass spectrum (MALDI-TOF, α-cyano-4-hydroxycinnamic acid matrix) calcd. for C19H20NClO4S: 416.1 (M+Na). Found: 416.1.

reactant | Sodium hydride | 1 mmol, 24 mg | [H-].[Na+]
reactant | 2-chlorobenzenesulfonic acid 3-hydroxy-5-methylphenyl ester | 0.855 mmol, 250 mg | OC=1C=C(C=C(C1)C)OS(=O)(=O)C1=C(C=CC=C1)Cl | C13H11ClO4S
reactant | 6-bromohexanenitrile | 0.93 mmol, 130 μL | BrCCCCCC#N | C6H10BrN
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 2-Chlorobenzenesulfonic acid 3-[5-cyanopentyloxy]-5-methylphenyl ester | 250 mg | C(#N)CCCCCOC=1C=C(C=C(C1)C)OS(=O)(=O)C1=C(C=CC=C1)Cl | C19H20ClNO4S
